US05126457
Into a 1-liter glass reactor 60.4 g (0.4 mole) of 2-nitro-benzaldehyde, 102.1 g (0.88 mole) of methyl acetoacetate, 28.25 g (0.415 mole) of a 25% aqueous ammonium hydroxide solution and 150 ml of methanol are weighed in. The reactor is closed, whereupon the reaction mixture is heated to boiling at a temperature of 101°-103° C. and a pressure of 2.0-2.2 bar for 5 hours. The reaction mixture is cooled to 0°-5° C., the precipitated product is filtered and washed with methanol. Thus 110.5 g of nifedipine are obtained, yield 79.8%, m.p.: 171.5°-175° C.

reactant | 2-nitro-benzaldehyde | 0.4 mole, 60.4 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | methyl acetoacetate | 0.88 mole, 102.1 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methanol | 150 ml | CO | CH4O
product | nifedipine | 110.5 g, yield 79.8% | CC1=C(C(C(=C(N1)C)C(=O)OC)C=2C=CC=CC2[N+](=O)[O-])C(=O)OC | C17H18N2O6
